* LM339 Voltage Comparator SPICE Subcircuit (4 channels)
* Source: public LTspice libraries (example) :contentReference[oaicite:1]{index=1}

.SUBCKT LM339 1 2 3 4 5
* pins:
* 1 = IN+,
* 2 = IN-,
* 3 = VCC,
* 4 = GND (-Vee),
* 5 = OPEN-COLLECTOR OUTPUT

* input stage differential transistors
Q1 10 1 4 QN
Q2 11 2 4 QN

* current mirror load
Q3 12 10 4 QN
Q4 12 11 4 QN

* output transistor
Q5 5 12 4 QN

* bias network
R1 3 12 100k
R2 10 11 10k

.MODEL QN NPN (IS=1e-14 BF=100)

.ENDS LM339
